US06399603B1
(2-(4-Fluorophenyl)amino-4-hydroxy-6-nitroquinazolin-8-yl)-N-(2-(pyridin-3-yl)ethyl)carboxamide.
Methyl 2-(4-fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylate. A solution of methyl 2-chloro-4-hydroxy-6-nitroquinazoline-8-carboxylate (1.50 g) and 4-fluoroaniline (1.76 g) in N-methylpyrrolidone (30 mL) was heated to 100° C. for 1 h. After cooling to room temperature, the reaction was cooled to 0° C. and a precipitate formed. The precipitate was isolated by filtration and washed with water (100 mL), 1M HCl (100 mL), and water (100 mL). The resulting material was dried to afford the title compound as a yellow solid (1.89 g). 1H NMR (300 MHz, DMSO-d6 (w/TFA (50 uL)): 8.80 (d, J=2.6 Hz, 1H), 8.69 (d, J=2.2 Hz, 1H), 7.85 (dd, J=8.4, 5.3 Hz, 2H), 7.24 (t, J=8.7 Hz, 2H), 3.97 (s, 3H). HPLC (Method F): 6.71 min. MS (APCI+): m/z 359.

reactant | Methyl 2-(4-fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylate | FC1=CC=C(C=C1)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)OC | C16H11FN4O5
reactant | methyl 2-chloro-4-hydroxy-6-nitroquinazoline-8-carboxylate | 1.50 g | ClC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)OC | C10H6ClN3O5
reactant | 4-fluoroaniline | 1.76 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | N-methylpyrrolidone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | (2-(4-Fluorophenyl)amino-4-hydroxy-6-nitroquinazolin-8-yl)-N-(2-(pyridin-3-yl)ethyl)carboxamide | 1.89 g | FC1=CC=C(C=C1)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)NCCC=1C=NC=CC1 | C22H17FN6O4
